US06235731B1
1) N-[1-[3-(3-Cyanophenyloxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
3-(3-Chloropropan-1-yl)oxybenzonitrile (503 mg) was added, at room temperature, to an acetonitrile solution (20 ml) of N-(piperidin-4-yl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride (800 mg), 1,8b-diazabicyclo[5.4.0]-7-undecene (662 mg), triethylamine (1.09 g) and sodium iodide (285 mg). The mixture was heated under reflux for 6.5 hours under nitrogen atmosphere. The reaction mixture was concentrated under reduced pressure. To the concentrate was added water, which was subjected to extraction with chloroform. The extract solution was washed with a saturated aqueous saline solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate was purified by means of a silica gel chromatography (ethyl acetate/methanol=2/1) to afford the object compound (565 mg, 57%) as reddish purple crystals.

reactant | 3-(3-Chloropropan-1-yl)oxybenzonitrile | 503 mg | ClCCCOC=1C=C(C#N)C=CC1 | C10H10ClNO
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
reactant | N-(piperidin-4-yl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 800 mg | Cl.Cl.N1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32
reactant | sodium iodide | 285 mg | [I-].[Na+]
solvent | triethylamine | 1.09 g | C(C)N(CC)CC | C6H15N
product | N-[1-[3-(3-Cyanophenyloxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 565 mg, 57% | C(#N)C=1C=C(C=CC1)OCCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H25N5O2S
